US04591458
A mixture of tert-butyl 3(S)-[9-tert-butoxycarbonylamino-1(S)-ethoxycarbonylnonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.33 g) and 5N hydrogen chloride-ethyl acetate solution (8 ml) is allowed to stand for 2.5 hours at room temperature. The mixture is diluted with petroleum ether (80 ml) to deposit colorless powder, which is collected and dried under reduced pressure to give 3(S)-[9-amino-1(S)-ethoxycarbonylnonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride (0.25 g).

reactant | tert-butyl 3(S)-[9-tert-butoxycarbonylamino-1(S)-ethoxycarbonylnonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.33 g | C(C)(C)(C)OC(=O)NCCCCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C32H51N3O8
reactant | hydrogen chloride-ethyl acetate | 5N, 8 ml | C(C)(=O)OCC.Cl
product | 3(S)-[9-amino-1(S)-ethoxycarbonylnonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride | 0.25 g | Cl.Cl.NCCCCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2 | InChI=1S/C23H35N3O6.2ClH/c1-2-31-23(30)17(11-7-5-3-4-6-10-14-24)25-18-16-32-20-13-9-8-12-19(20)26(22(18)29)15-21(27)28;;/h8-9,12-13,17-18,25H,2-7,10-11,14-16,24H2,1H3,(H,27,28);2*1H/t17-,18-;;/m0../s1
